US04014895
A mixture of the anhydride of cis-1,3-dibenzyl-2-oxo-imidazolidine-4,5-dicarboxylic acid (50.0 g), (R)-1-phenethylamine (18.9 g) and toluene (200 ml) is stirred and refluxed at 105° to 110° C for 2 hours. The toluene is distilled off, and the resulting residue is heated at 210° to 220° C for 1 hour. cis-1,3-Dibenzyl-5-[(R)-1-phenethyl]-hexahydropyrro[3,4-d]imidazole-2,4,6-trione left as the residue is dissolved in ethanol (750 ml), to which 97 % sodium borohydride (23.3 g) is added below 10° C. The mixture is stirred at room temperature for 16 hours. After the reduction is completed, the mixture is neutralized by the addition of acetic acid (35 ml) and concentrated in vacuo. The residue which contains cis-1,3-dibenzyl-4-[N-(R)-1-phenethylcarbamoyl]-5-hydroxymethyl-tetrahydroimidazol-2-one is heated under reflux with n butanol (500 ml) and 35 % hydrochloric acid (100 ml) for 2 hours. After the reaction is over, the mixture is cooled to room temperature. The n-butanol layer is separated, washed with water and concentrated in vacuo. The precipitate is collected by filtration to yield cis-1,3-dibenzyl-hexahydrofuro[3,4-d]imidazole-2,4-dione (44.6 g, 93.1 %). M.P. 96° to 101° C. [α]D25 + 13.8° (C = 2 in CHCl3). IR (Nujol) 1775, 1690 to 1700 cm-1 (C = 0).

reactant | cis-1,3-dibenzyl-2-oxo-imidazolidine-4,5-dicarboxylic acid | 50.0 g | C(C1=CC=CC=C1)N1C(N([C@H]([C@H]1C(=O)O)C(=O)O)CC1=CC=CC=C1)=O | C19H18N2O5
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | cis-1,3-dibenzyl-hexahydrofuro[3,4-d]imidazole-2,4-dione | 44.6 g, 93.1 % | C(C1=CC=CC=C1)N1C(N([C@H]2[C@@H]1COC2=O)CC2=CC=CC=C2)=O | C19H18N2O3
